US04105681
The 5-(4-allyloxy-2,3,6-trimethyl-phenyl)-3-methyl-penta-2,4-diene-1-triphenylphosphonium bromide employed as the starting material can be prepared by the procedure of Example 3. This procedure is carried out by alkylation of 1,3,5-trimethylphenol with allyl bromide to give 1,3,5-trimethyl-phenyl allyl ether (boiling point 76°-80° C/0.05 mmHg), by formylation of the ether obtained to give 4-allyloxy-2,3,6-trimethyl-benzaldehyde (boiling point 90°-102° C/0.15 mmHg), by condensation of the aldehyde obtained with acetone to give 4-(4-allyloxy-2,3,6-trimethyl-phenyl)-but-3-en-1-al (boiling point 135°-138° C/0.05 mmHg), by reaction of the ketone obtained with acetylene to give 5-(4-allyloxy-2,3,6-trimethyl-phenyl-3-methyl-3-hydroxy-penta-4-en-1-yne, by partial hydrogenation of the tertiary acetylene carbinol obtained to give 5-(4-allyloxy-2,3,6-trimethyl-phenyl)-3-methyl-3-hydroxy-penta-1,4-diene and by reaction of the tertiary ethylene carbinol obtained with triphenylphosphine hydrobromide. There is obtained 5-(4-allyloxy-2,3,6-trimethyl-phenyl)-3-methyl-penta-2,4-diene-triphenylphosphonium bromide which melts at 114°-116° C.

reactant | 1,3,5-trimethylphenol | CC1(CC(=CC(=C1)C)C)O | C9H14O
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 1,3,5-trimethyl-phenyl allyl ether | C(C=C)OC1(CC(=CC(=C1)C)C)C | C12H18O
